US07022725B2
A mixture of diethyl 4-aminobenzylphosphonate (36 mg), 3-[5-(3-chloro-4-fluorophenyl)-4-isoxazolyl]propionic acid (27 g), 1-hydroxy-7-aza-1H-1,2,3-benzotriazole (20 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (30 mg) and N,N-dimethylformamide (0.5 ml) was stirred at room temperature overnight. The reaction mixture was poured into 1N aqueous hydrochloric acid solution and the mixture was extracted with ethyl acetate. The ethyl acetate layer was concentrated, and the obtained solid was purified by preparative HPLC to give 3-[5-(3-chloro-4-fluorophenyl)-4-isoxazolyl]-N-[4-(diethylphosphonomethyl)phenyl]propionamide.

reactant | diethyl 4-aminobenzylphosphonate | 36 mg | NC1=CC=C(CP(OCC)(OCC)=O)C=C1 | C11H18NO3P
reactant | 3-[5-(3-chloro-4-fluorophenyl)-4-isoxazolyl]propionic acid | 27 g | ClC=1C=C(C=CC1F)C1=C(C=NO1)CCC(=O)O | C12H9ClFNO3
reactant | 1-hydroxy-7-aza-1H-1,2,3-benzotriazole | 20 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 30 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | 3-[5-(3-chloro-4-fluorophenyl)-4-isoxazolyl]-N-[4-(diethylphosphonomethyl)phenyl]propionamide | yield: 79% | ClC=1C=C(C=CC1F)C1=C(C=NO1)CCC(=O)NC1=CC=C(C=C1)CP(=O)(OCC)OCC | C23H25ClFN2O5P
